US07893112B2
A stirred solution of (S)-5-cyclopropyl-4,4-difluoro-2-((S)-2,2,2-trifluoro-1-phenylethylamino)pentanoic acid (150 mg, 0.4 mmol) in DMF (15 mL) was treated with HATU (253 mg, 0.5 mmol) and DIPEA (0.3 mL, 1.7 mL mmol). After 15 min, 1-cyanocyclopropane hydrochloride (61 mg, 0.5 mmol) was added and the reaction mixture was stirred under a nitrogen atmosphere for 2 h. Once the reaction was complete, the reaction mixture was quenched with saturated sodium bicarbonate solution, extracted with ethyl acetate & washed with 1HCl solution and brine, dried over Na2SO4, filtered and was concentrated. The crude compound was purified by silica gel column chromatography eluting with 10% ethyl acetate in hexane followed by re-crystallization from DCM and pentane to provide (S)-N-(1-cyanocyclopropyl)-5-cyclopropyl-4,4-difluoro-2-((S)-2,2,2-trifluoro-1-phenylethylamino)pentanamide (65 mg, 37%) as white solid. 1H-NMR (500 MHz, DMSO-d6): 8.88 (1H, s, NH), 7.38 (5H, s, Ar—H), 4.23 (1H, m, CHCF3), 3.39 (1H, m, CH), 3.18 (1H, m, NH), 2.23 (2H, m, CH2), 1.94 (2H, m, CH2), 1.32 (2H, m, CH2), 0.82 (2H, m, CH2), 0.57 (1H, m, CH), 0.45 (2H, m, CH2), 0.12 (2H, m, CH2). 19F-NMR (500 MHz, CD3OD): −74.609 (CF2), 95.308, −95.507 (CF3). EIMS (m/z): 416 (M+H). HPLC: 97.37% (RT 16.39)Column used zorbax SB, C8, 250×4.6 mm, 5uMobile Phase: ACN (B): 0.1% TFA in water (A)Flow rate: 1.0 mL/Min

reactant | (S)-5-cyclopropyl-4,4-difluoro-2-((S)-2,2,2-trifluoro-1-phenylethylamino)pentanoic acid | 0.4 mmol, 150 mg | C1(CC1)CC(C[C@@H](C(=O)O)N[C@H](C(F)(F)F)C1=CC=CC=C1)(F)F | C16H18F5NO2
reactant | HATU | 0.5 mmol, 253 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-cyanocyclopropane hydrochloride | 0.5 mmol, 61 mg | Cl.C(#N)C1CC1
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (S)-N-(1-cyanocyclopropyl)-5-cyclopropyl-4,4-difluoro-2-((S)-2,2,2-trifluoro-1-phenylethylamino)pentanamide | 65 mg, 37% | C(#N)C1(CC1)NC([C@H](CC(CC1CC1)(F)F)N[C@H](C(F)(F)F)C1=CC=CC=C1)=O | C20H22F5N3O
